US06133294
3-Chloro-5-ethynyl-2-methylthiopyridine
3-Chloro-2-methylthio-5-(trimethylsilylethynyl)-pyridine (1.1 g, 4.3 mmol) was dissolved with stirring in methanol (50 mL) and anhydrous potassium carbonate (2.5 g, 0.018 mol) added. The mixture was stirred overnight, filtered, and evaporated to dryness. The residue was slurried in dichloromethane (100 mL), filtered, and evaporated to dryness. The residue was purified by chromatography over silica (0-3% ethyl acetate:hexane) to give the desired product (0.78 g, 95%) as a pale solid which darkens on standing, melting point. 58-60° C.

reactant | 3-Chloro-2-methylthio-5-(trimethylsilylethynyl)-pyridine | 4.3 mmol, 1.1 g | ClC=1C(=NC=C(C1)C#C[Si](C)(C)C)SC | C11H14ClNSSi
reactant | potassium carbonate | 0.018 mol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-Chloro-5-ethynyl-2-methylthiopyridine | 0.78 g, 95% | ClC=1C(=NC=C(C1)C#C)SC | C8H6ClNS
